US08633319B2
Preparation of 7-[1-(1,1-dimethylethyl)-1H-pyrazol-4-yl]-N-{[(3S)-3-fluoro-3-piperidinyl]methyl}-1,6-naphthyridin-5-amine (Example 2)
7-[1-(1,1-Dimethylethyl)-1H-pyrazol-4-yl]-N-{[(3S)-3-fluoro-3-piperidinyl]methyl}-1,6-naphthyridin-5-amine dihydrochloride (1 wt) is dissolved/suspended in water (10 vol) and washed with ethyl acetate (2×5 vol). The acidic aqueous phase is basified with 32% NaOH (0.6 vol) to pH 10 and extracted with ethyl acetate (2×5 vol). The extracts are washed with 5% w/v sodium chloride in water (5 vol). The combined extracts are concentrated on the Buchi to a solid. The residue is suspended in n-butyl acetate (2.8 vol) and heated to 73-78° C. to complete dissolution. The solution is line filtered through a 5 μM domnick hunter filter, with a 0.2 vol line wash. The solution is cooled to 45-50° C. and seeded with the title compound (0.001 wt). The mixture is cooled to 40-45° C. and aged for 50 min. The slurry is diluted with TBME (3 vol) over 30 min at 40-45° C., and aged at 40-45° C. for 1 h. The slurry is cooled to 20-23° C. and aged for 16 h. The solid is filtered, washed with 1:1 v/v n-butyl acetate/TBME (1 vol) followed by TBME (2×2 vol) and dried in vacuo at 40±5° C. to constant probe temperature.

reactant | 7-[1-(1,1-Dimethylethyl)-1H-pyrazol-4-yl]-N-{[(3S)-3-fluoro-3-piperidinyl]methyl}-1,6-naphthyridin-5-amine dihydrochloride | Cl.Cl.CC(C)(C)N1N=CC(=C1)C=1N=C(C=2C=CC=NC2C1)NC[C@]1(CNCCC1)F
solvent | water | O | H2O
product | 7-[1-(1,1-dimethylethyl)-1H-pyrazol-4-yl]-N-{[(3S)-3-fluoro-3-piperidinyl]methyl}-1,6-naphthyridin-5-amine | CC(C)(C)N1N=CC(=C1)C=1N=C(C=2C=CC=NC2C1)NC[C@]1(CNCCC1)F | C21H27FN6
